Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Tegretol / tramadol
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ G2P0 at ___ with history of chronic HTN, seizure 
disorder,
hx renal cell cancer s/p nephrectomy who presents with
intermittent lower abdominal pain. Started at 11am on the day of 
admission
and was mild through the afternoon but the pain gradually became 
stronger
She described the pain as sharp as intermittent; is not sure if 
it feels like menstrual cramps or contractions. Denies back 
pains. Denies VB, LOF. +FM.

Has been having new onset migraines recently, for which she is
scheduled to see her neurologist ___ and undergo an MRI. She
currently does not have a headache. She denies visual changes,
right upper quadrant or epigastric pain. She has chronic
hypertension and is compliant with her medications

ROS notable for increased pelvic pressure with urination and
bowel movement. Denies dysuria, hematuria, burning with
urination, incomplete voiding.

Endorses malaise x 1 day. Denies fevers, night sweats, chills,
nausea, emesis, GI intolerance, diarrhea, constipation.

Denies abdominal trauma. Denies illicit drug use. Denies recent
changes in medications.   

 
Past Medical History:
PNC: 
- ___ by ___
- Labs ___ unknown
- Screening: low risk NIPT 
- FFS: wnl anatomy, LLP --> resolved 
- GLT: wnl  
- U/S ___ (for AMA, HTN, sz dizorder, LLP f/u): 1124g (48%),
anterior placenta, no evidence of previa, no longer low lying
placenta; CL 34mm 
- Issues:
1. cHTN
2. History of TBI at age ___ with seizure disorder, on felbamate
3. Hx renal cell cancer, s/p R partial nephrectomy
4. AMA
5. Status post ___ consult pre- and during pregnancy
6. New onset migraines in pregnancy, planning to undergo MRI 
with
primary neurologist
 
OBHx:
- G2P0
- G1 SAB
- G2 current
 
GynHx:
- infertility, s/p 4 cycles of clomid unsuccessfully with now
spontaneous pregnancy
- denies abnormal Pap, fibroids, Gyn surgery, STIs
 
PMH: 
1. cHTN
2. MVA of TBI at age ___, plate in head
3. Epilepsy starting at age ___. Petit mal seizures, no tonic
clonic seizures since age ___. Followed by Neuro. On felbamate.
Last drug level wnl ___. 
3. Hx renal clear cell cancer, s/p R partial nephrectomy
4. Seasonal allergies
Denies history of migraines

PSH: 
1. Right partial nephrectomy ___

 
Social History:
SHx:
- Married to husband ___
- In school for special ed teaching
- Denies T/E/D

 
Physical Exam:
Initial Physical Exam
VS: T 98.1, HR 88, BP 123/83 -> 118/68, RR 18, pain ___
Gen: A&O, uncomfortable during ctx
PULM: nl resp effort
Abd: soft, gravid, mild suprapubic tenderness, no RUQ or
epigastric ttp, no fundal tenderness
Back: no CVAT
Ext: no calf tenderness, no edema
 
SVE: internal os closed/long/-3/moderate/anterior (was L/C/P one
week ago)
Adequate pelvis

Toco: q4-5min
FHT: 140/moderate varability/-accels/-decels
 
TAUS: cephalic, AFI 15
BPP: ___

 
Pertinent Results:
___ 08:38PM BLOOD WBC-10.1 RBC-3.37* Hgb-10.5* Hct-30.7* 
MCV-91 MCH-31.1 MCHC-34.1 RDW-13.0 Plt ___
___ 08:38PM BLOOD Glucose-81 UreaN-9 Creat-0.8 Na-136 K-4.5 
Cl-103 HCO3-23 AnGap-15
___ 08:38PM BLOOD ALT-15 AST-40
___ 08:38PM BLOOD Calcium-8.9 Phos-4.4# Mg-1.9 UricAcd-3.7
___ 08:30PM URINE Color-Yellow Appear-Clear Sp ___
___ 08:30PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-SM 
___ 08:30PM URINE RBC-1 WBC-2 Bacteri-FEW Yeast-NONE Epi-1 
TransE-<1
___ 10:30PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG
 
Brief Hospital Course:
On ___ Ms. ___ was admitted for monitoring of 
preterm contractions with a positive FFN. Her cervical 
examination remained unchanged. She received Indocin until her 
course of betamethasone was complete. Her antihypertensives were 
continued and her blood pressure was closely monitored. 
Laboratory evaluation was not concerning for pre eclampsia. She 
had no severe range blood pressures but did have some 
asymptomatically lower blood pressures. She was advised to 
continue checking her blood pressures at home and to hold her 
medication for low blood pressure.

She was discharged home in good condition on ___.
 
Medications on Admission:
1. Felbatol (felbamate) 600 mg oral TID 
2. FoLIC Acid 4 mg PO DAILY 
3. Labetalol 200 mg PO BID 
Do not take for SBP <120 or DBP < 80. 
4. NIFEdipine CR 30 mg PO DAILY 
Do not take if SBP < 120 or DBP < 80. 
5. Prenatal Gummy (PNV62-FA-om3-dha-epa-fish oil) 2 gummies PO 
daily 
6. Pyridoxine 100 mg PO DAILY 

 
Discharge Medications:
1. Felbatol (felbamate) 600 mg oral TID 
2. FoLIC Acid 4 mg PO DAILY 
3. Labetalol 200 mg PO BID 
Do not take for SBP <120 or DBP < 80. 
4. NIFEdipine CR 30 mg PO DAILY 
Do not take if SBP < 120 or DBP < 80. 
5. Prenatal Gummy (PNV62-FA-om3-dha-epa-fish oil) 2 gummies PO 
daily 
6. Pyridoxine 100 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Preterm contractions with positive fFN
Chronic hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Check BP when due for medication and do not take if SBP < 120 or 
DBP < 80.
Maintain pelvic rest, but can otherwise continue routine daily 
activity.
 
Followup Instructions:
___